US09303023B2
3-(2-Bromoethyl)-5-methoxy-1-methyl-1H-indole
A flask was charged with NaH (145 mg, 3.62 mmol), MeI (0.45 mL, 7.24 mmol) and THF (1.7 mL). The resulting grey suspension was stirred at rt for 5 min, then a solution of 3-(2-bromo-ethyl)-5-methoxy-1H-indole (230 mg, 0.90 mmol) in THF (4.1 mL) was added dropwise. After stirring for 18 h at rt, the reaction mixture was concentrated and purification by FC (hex/EtOAc 2:1, Rf=0.5) yielded the title compound as an yellow solid. LC-MS conditions 08Z acidic tR=0.93 min, [M+H]+=no ionization.

reactant | NaH | 3.62 mmol, 145 mg | [H-].[Na+]
reactant | MeI | 7.24 mmol, 0.45 mL | CI | CH3I
reactant | 3-(2-bromo-ethyl)-5-methoxy-1H-indole | 0.90 mmol, 230 mg | BrCCC1=CNC2=CC=C(C=C12)OC | C11H12BrNO
solvent | THF | 4.1 mL | C1CCOC1 | C4H8O
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | 3-(2-Bromoethyl)-5-methoxy-1-methyl-1H-indole | BrCCC1=CN(C2=CC=C(C=C12)OC)C | C12H14BrNO
